US05300506
To a solution of 3-(5-ethanesulfonylamino-1H-indol-3-yl)propanol (0.59 g, 2.1 mmol) in 20 mL of THF at 0° C. was added triethylamine (0.58 mL, 4.2 mmol) followed by the dropwise addition of methanesulfonyl chloride (0.24 mL, 3.1 mmol). The reaction was stirred for 30 minutes at 0° C. The reaction was poured into a mixture of saturated NaHCO3 and ethyl acetate. The organic phase was separated and the aqueous phase reextracted with three portions of ethyl acetate. The combined organic layers were washed with a saturated NaCl solution, dried over anhydrous K2CO3, filtered, and concentrated in vacuo to yield 3-(5-ethanesulfonylamino-1H-indol-3-yl)propyl methanesulfonate (0.75 g, >99%) which was used without further purification.

reactant | 3-(5-ethanesulfonylamino-1H-indol-3-yl)propanol | 2.1 mmol, 0.59 g | C(C)S(=O)(=O)NC=1C=C2C(=CNC2=CC1)CCCO | C13H18N2O3S
reactant | triethylamine | 4.2 mmol, 0.58 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 3.1 mmol, 0.24 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(5-ethanesulfonylamino-1H-indol-3-yl)propyl methanesulfonate | 0.75 g, >99% | CS(=O)(=O)OCCCC1=CNC2=CC=C(C=C12)NS(=O)(=O)CC | C14H20N2O5S2
